US05380508
A solution of 200 g of a calcium carbonate overbased alkylsalicylate (TBN 280 mgKOH/g, calcium content; 10.0 wt. %) and 200 g of xylene were put in a 1000-ml four-necked flask fitted with a condenser and heated to 95° C. while agitating. To this mixture was added 20 g of orthoboric acid, and the temperature was gradually increased to 145° C., while the reaction water was removed by azeotropic distillation by spending time for 1.5 hours. Subsequently, the reactor contents were filtered to obtain a filtrate (solution) which was cooled and then centrifuged to remove any residual solids present. Finally, the xylene was removed in vacuo to obtain a calcium borate overbased alkylsalicylate.

reactant | calcium carbonate | 200 g | C([O-])([O-])=O.[Ca+2]
reactant | xylene | 200 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | orthoboric acid | 20 g | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | calcium borate | B([O-])([O-])[O-].[Ca+2].B([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/2BO3.3Ca/c2*2-1(3)4;;;/q2*-3;3*+2
